US03998834
To start the reaction, a small amount of a solution of 78.1 parts of iodomethane in 70 parts of dry 1,1'-oxybisethane is dropped to a stirred solution of 6.9 parts of lithium in 70 parts of dry 1,1'-oxybisethane. After the addition of 70 parts of dry 1,1'-oxybisethane, the remainder of the solution is added dropwise at reflux temperature. Stirring at reflux is continued for 30 minutes. Then there were added portionwise 16.2 parts of 4-(phenylamino)-1-(2-phenylethyl)-4-piperidinecarboxylic acid (a violent reaction occurs whereby reflux temperature is maintained). Upon completion, stirring at reflux is continued for 1h. 30. The reaction mixture is decomposed by the dropwise addition of 300 parts of water. The organic phase is separated, washed with water, dried, filtered and evaporated. The residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and 5% of methanol as eluent. The first fraction is collected and the eluent is evaporated. The residue is crystallized from 14 parts of 2,2'-oxybispropane, yielding 1-[4-(phenylamino)-1-(2-phenylethyl)-4-piperidinyl]ethanone; mp. 100.6° C.

reactant | iodomethane | IC | CH3I
reactant | 1,1'-oxybisethane | O(CC)CC | C4H10O
reactant | lithium | [Li] | Li
reactant | 4-(phenylamino)-1-(2-phenylethyl)-4-piperidinecarboxylic acid | C1(=CC=CC=C1)NC1(CCN(CC1)CCC1=CC=CC=C1)C(=O)O | C20H24N2O2
solvent | water | O | H2O
product | 1-[4-(phenylamino)-1-(2-phenylethyl)-4-piperidinyl]ethanone | C1(=CC=CC=C1)NC1(CCN(CC1)CCC1=CC=CC=C1)C(C)=O | C21H26N2O
